US07220877B2
To a solution of 1,3-diiodobenzene (2.64 g, 8.0 mmol) in diisopropylamine (25 mL) under a nitrogen atmosphere were added copper(I) iodide (75 mg, 0.4 mmol) and tetrakis(triphenylphosphine)palladium (80 mg, 0.07 mmol). After the mixture stirred for 1 h, a solution of 2-penten-4-yn-1-ol (2.0 g, 24.0 mmol) in diisopropylamine (10 mL) was added. After stirring at 60° C. for 16 h, the reaction mixture was filtered and the filtrate evaporated to dryness. The product was purified by flash chromatography using toluene/ethyl acetate (9:1) graduated to ethyl acetate as eluent to give 1.35 g (71%) of (E)(E) 5-[3-(5-hydroxy-pent-3-en-1-ynyl)-phenyl]-pent-2-en-4-yn-1-ol.

reactant | 1,3-diiodobenzene | 8.0 mmol, 2.64 g | IC1=CC(=CC=C1)I | C6H4I2
reactant | 2-penten-4-yn-1-ol | 24.0 mmol, 2.0 g | C(C=CC#C)O | C5H6O
solvent | diisopropylamine | 25 mL | C(C)(C)NC(C)C | C6H15N
solvent | diisopropylamine | 10 mL | C(C)(C)NC(C)C | C6H15N
catalyst | copper(I) iodide | 0.4 mmol, 75 mg | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium | 0.07 mmol, 80 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (E)(E) 5-[3-(5-hydroxy-pent-3-en-1-ynyl)-phenyl]-pent-2-en-4-yn-1-ol | 1.35 g, 71% | OC/C=C/C#CC=1C=C(C=CC1)C#C/C=C/CO | C16H14O2
